US05580552
3-acetoxy-4-butoxy-7-hydroxy-2H-1-benzopyran-2-one
To a mixture of 17.31 g of 4-butoxy-3, 7-diacetoxy-2H-l-benzopyran-2-one (51.79 mmol) in 170 ml of methanol was added 2.66 g of sodium methoxide (49.20 mmol) and the reaction mixture was stirred at room temperature for 3 hours. Then 22.36 g of Amberlyst-15 was added, and the mixture was stirred at room temperature for 1 hour. Amberlyst-15 was filtered off and the filtrate was concentrated under reduced pressure to give a crystalline product. The product was reprecipitated from tertahydrofuran and hexane to give 12.87 g of the title compound. (yield=85%)

reactant | 4-butoxy-3, 7-diacetoxy-2H-l-benzopyran-2-one | 51.79 mmol, 17.31 g | C(CCC)OC1=C(C(OC2=C1C=CC(=C2)OC(C)=O)=O)OC(C)=O | C17H18O7
reactant | sodium methoxide | 49.20 mmol, 2.66 g | C[O-].[Na+]
solvent | methanol | 170 ml | CO | CH4O
product | 3-acetoxy-4-butoxy-7-hydroxy-2H-1-benzopyran-2-one | 12.87 g, yield=85% | C(C)(=O)OC=1C(OC2=C(C1OCCCC)C=CC(=C2)O)=O | C15H16O6
